US05041453
A mixture of (E)-3-(7-chloro-2-quinolinylethenyl)phenyl acetate (7.4 g, 22.9 mmol) and anhydrous sodium carbonate (606 mg, 5.7 mmol) in 135 ml of methanol is stirred at room temperature for 36 hours. pH 7 buffer (250 ml) is added and the precipitated solid filtered and dried to afford (E)-3-(7-chloro-2-quinolinylethenyl)phenol which is used directly in the next step.

reactant | (E)-3-(7-chloro-2-quinolinylethenyl)phenyl acetate | 22.9 mmol, 7.4 g | C(C)(=O)OC1=CC(=CC=C1)\C=C\C1=NC2=CC(=CC=C2C=C1)Cl | C19H14ClNO2
reactant | sodium carbonate | 5.7 mmol, 606 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 135 ml | CO | CH4O
product | (E)-3-(7-chloro-2-quinolinylethenyl)phenol | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=C(C=CC1)O | C17H12ClNO
